US07939666B2
A solution of tetrahydro-beta-carboline-1-carboxylic acid (7.4 g) in MeOH (250 ml) was saturated with HCl gas for 20 min. The reaction mixture was gently stirred at room temperature for 18 h. and ca. 80% conversion was observed. The reaction mixture was re-treated with HCl gas and allowed to stir for another 18 h. Upon completion of the reaction the mixture was concentrated in vacuo to yield 2,3,4,9-tetrahydro-1H-beta-carboline-1-carboxylic acid methyl ester (building block C), LCMS purity 95%, m/z 231 [M++H]+. The product was used without further purification.

reactant | tetrahydro-beta-carboline-1-carboxylic acid | 7.4 g | C1(NCCC=2C3=CC=CC=C3NC12)C(=O)O | C12H12N2O2
reactant | HCl | Cl | ClH
reactant | MeOH | 250 ml | CO | CH4O
product | 2,3,4,9-tetrahydro-1H-beta-carboline-1-carboxylic acid methyl ester | COC(=O)C1NCCC=2C3=CC=CC=C3NC12 | C13H14N2O2
